US07402581B2
(b) 3-Bromo-N-[(2S)-2-(4-fluorophenyl)-4-oxobutyl]-5-iodo-N-methylbenzamide
The compound was synthesized in an analogous way to that of Method 21b but using 3-bromo-N-[(2S)-2-(4-fluorophenyl)pent-4en-1-yl]-5-iodo-N-methylbenzamide rather than 3,5-dichloro-N-[(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]-N-methylbenzamide (yield, 100%). 1H NMR (500 MHz, CDCl3): 2.6-3.2 (cm, 4H), 3.4-3.9 (cm, 2H), 4.0-4.2, (cm, 2H), 6.8-8.2 (cm, 7H), 9.8 (s, 1H).

reactant | 3-bromo-N-[(2S)-2-(4-fluorophenyl)pent-4en-1-yl]-5-iodo-N-methylbenzamide | BrC=1C=C(C(=O)N(C)C[C@@H](CC=C)C2=CC=C(C=C2)F)C=C(C1)I | C19H18BrFINO
reactant | 3,5-dichloro-N-[(2S)-2-(4-fluorophenyl)pent-4-en-1-yl]-N-methylbenzamide | ClC=1C=C(C(=O)N(C)C[C@@H](CC=C)C2=CC=C(C=C2)F)C=C(C1)Cl | C19H18Cl2FNO
product | 3-Bromo-N-[(2S)-2-(4-fluorophenyl)-4-oxobutyl]-5-iodo-N-methylbenzamide | BrC=1C=C(C(=O)N(C)C[C@@H](CC=O)C2=CC=C(C=C2)F)C=C(C1)I | C18H16BrFINO2
